US04126628
N6 -t-butyloxycarbonyllysine
To the solution of 575 mg of lysine monohydrochloride in 2 ml of water, 6.2 ml of 1N methanolic potassium hydroxide was added and then 645 mg of t-butyl succinimidyl carbonate in 3 portions was mixed in over 20 minutes while stirring at room temperature. Stirring was continued for another 2 hours, then the reaction mixture was acidified to pH 5, methanol evaporated and the white precipitate collected by filtration giving 779 mg (quantitative yield) of the crude title compound. This was twice recrystallized from warm water to give 529.7 mg (68%) of pure compound.

reactant | lysine monohydrochloride | 575 mg | Cl.N[C@@H](CCCCN)C(=O)O
reactant | t-butyl succinimidyl carbonate | 645 mg | C(OC(C)(C)C)(ON1C(CCC1=O)=O)=O | C9H13NO5
reactant | methanol | CO | CH4O
solvent | water | 2 ml | O | H2O
solvent | potassium hydroxide | 1N, 6.2 ml | [OH-].[K+]
product | N6 -t-butyloxycarbonyllysine | 529.7 mg, 68% | C(C)(C)(C)OC(=O)NCCCC[C@H](N)C(=O)O | C11H22N2O4
